US08217066B2
Step 3: 1-{4′-[4-(3-Hydroxy-4-phenyl-butyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
1-{4′-[3-Methyl-4-(3-oxo-propyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (0.250 g, 0.62 mmol) was dissolved in THF and cooled to 0° C. under N2 atmosphere. Benzylmagnesium bromide (19% in THF, 0.62 mL, 0.62 mmol) was added and the reaction was allowed to slowly warm to room temperature. After 1.5 hours, the reaction was cooled to 0° C. and additional benzylmagnesium bromide (19% in THF, 0.1 mL, 0.10 mmol) was added, and the reaction was stirred for 30 minutes. The mixture was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic layers were dried and concentrated and the residue was purified by silica gel chromatography (0-60% EtOAc in hexanes) to give the title compound.

reactant | 1-{4′-[3-Methyl-4-(3-oxo-propyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 0.62 mmol, 0.250 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CCC=O | C25H25NO4
reactant | Benzylmagnesium bromide | 0.62 mmol, 0.62 mL | C(C1=CC=CC=C1)[Mg]Br
reactant | benzylmagnesium bromide | 0.10 mmol, 0.1 mL | C(C1=CC=CC=C1)[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
product | 1-{4′-[4-(3-Hydroxy-4-phenyl-butyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CCC(CC1=CC=CC=C1)O | C32H33NO4
